US04940713
(c) Preparation of 4-[[4-(2,4-Diamino-1,6-dihydro-6-oxo-5-pyrimidinyl)butyl]tosylamino]benzoic acid
To a solution of 0.377 g (0.0164 mol) of sodium in 8 mL of absolute ethanol under nitrogen was added 1.04 g (0.0109 mol) of guanidine hydrochloride and 1 mL of rinse absolute ethanol. The mixture was stirred for 30 min, and to it was added a solution of 2.73 g (0.00546 mol) of ethyl 4-[(5-cyano-6-ethoxy-6-oxohexyl)tosylamino]benzoate.0.15 ethyl acetate in 6 mL of absolute ethanol and then 7 mL of rinse absolute ethanol. The mixture was refluxed for 4 h and was allowed to cool to room temperature and stand under nitrogen overnight. The reaction mixture was filtered by suction, and the filtrate was neutralized with 0.984 g (0.0164 mol) of glacial acetic acid. The solution was concentrated under vacuum at 30° C. to a solid that was washed well with 50 mL of water, collected by suction filtration, washed again with 25, 25, and 10 mL of water, and dried under vacuum at 60° C.; yield, 2.76 g. Fourier transform NMR (Me2SOd6) and chemical ionization mass spectroscopy indicated a mixture of product and uncyclized intermediates. A 2.41 g sample of solid was added to a solution of 3.16 g (0.137 mol) of sodium in 138 mL of absolute ethanol under nitrogen. The mixture was heated to reflux, and the resulting solution was refluxed for 3 h 15 min. The slightly cloudy solution was allowed to cool to room temperature, and the resulting mixture was allowed to stand under nitrogen overnight. The mixture was heated briefly back to reflux, and the resulting slightly cloudy, hot solution was neutralized with 8.30 g (0.138 mol) of glacial acetic acid. The thick mixture was concentrated under vacuum at 35° C. to a white solid to which was added 50 mL of water. Then to the stirred mixture was added approximately 5-8 mL of concentrated hydrochloric acid. The mixture with a pH of 5.5 was filtered by suction, and collected solid was washed with 15 and 20 mL of water and dried under vacuum overnight at room temperature in a desiccator; yield, 1.98 g (84%): NMR (Me2SOd6) δ 1.2-1.4 (m, 4H), 2.06 (t, 2H), 2.37 (s, 3H), 3.54 (t, 2H), 5.58 (br s, 2H), 5.89 (br s, 2H), 7.14 (d, 2H), 7.3-7.5 (AA'BB', 4H), 7.86 (d, 2H), 9.75 (br), 0.13 mol of acetic acid.

reactant | sodium | 0.0164 mol, 0.377 g | [Na] | Na
reactant | guanidine hydrochloride | 0.0109 mol, 1.04 g | Cl.NC(=N)N
reactant | ethyl 4-[(5-cyano-6-ethoxy-6-oxohexyl)tosylamino]benzoate | 0.00546 mol, 2.73 g | C(#N)C(CCCCN(C1=CC=C(C(=O)OCC)C=C1)S(=O)(=O)C1=CC=C(C)C=C1)C(=O)OCC | C25H30N2O6S
reactant | sodium | 0.137 mol, 3.16 g | [Na] | Na
solvent | ethanol | 8 mL | C(C)O | C2H6O
solvent | ethanol | 6 mL | C(C)O | C2H6O
solvent | ethanol | 138 mL | C(C)O | C2H6O
solvent | ethanol | 7 mL | C(C)O | C2H6O
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 0.138 mol, 8.30 g | C(C)(=O)O | C2H4O2
solvent | acetic acid | 0.0164 mol, 0.984 g | C(C)(=O)O | C2H4O2
product | 4-[[4-(2,4-Diamino-1,6-dihydro-6-oxo-5-pyrimidinyl)butyl]tosylamino]benzoic acid | NC=1NC(C(=C(N1)N)CCCCN(C1=CC=C(C(=O)O)C=C1)S(=O)(=O)C1=CC=C(C)C=C1)=O | C22H25N5O5S
